US08293903B2
Triflic anhydride (27.9 g, 99.1 mmol) was placed in a flask and cooled with an ice bath. 2,2-Difluoroethanol (8.1 g, 99.1 mmol) was added and the reaction was heated to 84° C. for 1 hour. The reaction was cooled in an ice bath and poured into 100 ml cold 5% NaHCO3 solution. The mixture was extracted with diethyl ether, dried over MgSO4, and concentrated under reduced pressure to remove the ether. The residue was vaccuum distilled to give 2,2-difluoroethyl trifluoromethanesulfonate as a clear liquid (13.6 g, 64%, bp˜55° C.). 1H NMR (400 MHz, CDCl3) δ ppm 6.17-5.88 (1H), 4.61-4.13 (2H)

reactant | Triflic anhydride | 99.1 mmol, 27.9 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2,2-Difluoroethanol | 99.1 mmol, 8.1 g | FC(CO)F | C2H4F2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2,2-difluoroethyl trifluoromethanesulfonate | 13.6 g, 64% | FC(S(=O)(=O)OCC(F)F)(F)F | C3H3F5O3S
